US04578381
2.0 Grams of 2-amino-3-(6-hydroxy-2-quinolon-4-yl)propionic acid hydrochloride and 4.8 g of potassium carbonate were dissolved in 100 ml of aceton with 50 ml of water. To this mixture was added 2.7 g of p-chlorobenzoyl chloride was added dropwise under ice-cooled condition with stirring. The reaction was continued for 3 hours under ice-cooled condition with stirring. Acetone was removed by distillation, the residue obtained was diluted with water, acidified with hydrochloric acid. The crystals precipitated were collected by filtration. Recrystallized from ethanol-water to obtain 1.5 g of 2-(4-chlorobenzoylamino)3-[6-(4-chlorobenzoyloxy)-2-quinolon-4-yl]propionic acid in the form of white powdery product.

reactant | 2-amino-3-(6-hydroxy-2-quinolon-4-yl)propionic acid hydrochloride | Cl.NC(C(=O)O)CC1=CC(NC2=CC=C(C=C12)O)=O
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorobenzoyl chloride | 2.7 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | aceton | 100 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 2-(4-chlorobenzoylamino)3-[6-(4-chlorobenzoyloxy)-2-quinolon-4-yl]propionic acid | 1.5 g | ClC1=CC=C(C(=O)NC(C(=O)O)CC2=CC(NC3=CC=C(C=C23)OC(C2=CC=C(C=C2)Cl)=O)=O)C=C1 | C26H18Cl2N2O6
